US05246948
iii) Synthesis of 1,2-bis-[N-[4-(4-pyridylthio)butyl]-N-propionylamino]benzene
To a solution of 525 mg (4.7 mmol) of 4-mercaptopyridine and 265 mg (4.7 mmol) of potassium hydroxide in 20 ml of dimethyl sulfoxide, 760 mg (1.89 mmol) of 1,2-bis[N-(4-chlorobutyl)-N-propionylamino]benzene was added at room temperature, and the mixture was stirred for 2 hours. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The extract was dried and the solvent was distilled off. The residue was purified by column chromatography (eluent: ethyl acetate to ethyl acetate/ethanol =20:1 to 10:1 to 5:1) to give 0.84 g of the desired product (81.0% yield, pale yellow crystals).

reactant | 4-mercaptopyridine | 4.7 mmol, 525 mg | SC1=CC=NC=C1 | C5H5NS
reactant | potassium hydroxide | 4.7 mmol, 265 mg | [OH-].[K+]
reactant | 1,2-bis[N-(4-chlorobutyl)-N-propionylamino]benzene | 1.89 mmol, 760 mg | ClCCCCN(C(CC)=O)C1=C(C=CC=C1)N(CCCCCl)C(CC)=O | C20H30Cl2N2O2
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 1,2-bis-[N-[4-(4-pyridylthio)butyl]-N-propionylamino]benzene | 0.84 g, 81.0% yield | N1=CC=C(C=C1)SCCCCN(C(CC)=O)C1=C(C=CC=C1)N(CCCCSC1=CC=NC=C1)C(CC)=O | C30H38N4O2S2
